### ISSUE TITLE
`unexpected bound variable`  error in `simp`

### ISSUE THREAD

**Issue by semorrison** [leanprover-community/mathlib4#11357]
In `Mathlib/Algebra/Group/Hom/Instances.lean` on the `bump/nightly-2024-03-13` branch (and probably later `bump/v4.8.0`, or even thereafter `master`, we have a 
```
      simp [zpow_add_one]
      simp [mul_comm]
```
and combining this into a single `simp` call as
```
      simp [zpow_add_one, mul_comm]
```
generates an error `unexpected bound variable #0`. This is almost certainly a bug, and hopefully someone can work on minimizing it to a no imports example.

**Comment by mattrobball** [comment]
```lean
structure MonoidHom (M : Type _) (N : Type _) [Mul M] [Mul N] where
  toFun : M → N
  map_mul' : ∀ x y, toFun (x * y) = toFun x * toFun y

class CommMagma (G : Type _) extends Mul G where
  mul_comm : ∀ a b : G, a * b = b * a

set_option quotPrecheck false
infixr:25 " →*' " => MonoidHom

instance [Mul M] [Mul N] : CoeFun (M →*' N) (fun _ => M → N) where
  coe := MonoidHom.toFun

open CommMagma

-- -- this instance needed
instance MonoidHom.commMonoid [Mul M] [Mul N] :
    CommMagma (M →*' N) where
  mul := fun f g => { toFun := fun x => f x * g x, map_mul' := sorry }
  mul_comm := sorry

example {M} [Mul M] [Mul G] [Pow G ℤ] :
    let zpow : ℤ → (M →*' G) → (M →*' G) := fun n f => { toFun := fun x => f x ^ n, map_mul' := sorry }
    ∀ (n : ℕ) (a : M →*' G), zpow (Int.ofNat (Nat.succ n)) a = a * zpow (Int.ofNat n) a := by
  -- simp only [Int.ofNat_eq_coe, zpow_coe_nat]
  simp only [mul_comm] -- hangs. Is this to be expected?
  sorry
```

I can get the timeout here

**Comment by mattrobball** [comment]
Mathlib free 
```lean
structure MonoidHom (M : Type _) (N : Type _) [Mul M] [Mul N] where
  toFun : M → N
  map_mul' : ∀ x y, toFun (x * y) = toFun x * toFun y

class CommMagma (G : Type _) extends Mul G where
  mul_comm : ∀ a b : G, a * b = b * a

set_option quotPrecheck false
infixr:25 " →*' " => MonoidHom

instance [Mul M] [Mul N] : CoeFun (M →*' N) (fun _ => M → N) where
  coe := MonoidHom.toFun

open CommMagma

-- -- this instance needed
instance MonoidHom.commMonoid [Mul M] [Mul N] :
    CommMagma (M →*' N) where
  mul := fun f g => { toFun := fun x => f x * g x, map_mul' := sorry }
  mul_comm := sorry

-- failing to extract, but I'm surprised `simp only [mul_comm]` hangs Lean.
example {M} [Mul M] [Mul G] [Pow G Int] :
    let zpow : Int → (M →*' G) → (M →*' G) := fun n f => { toFun := fun x => f x ^ n, map_mul' := sorry }
    ∀ (n : ℕ) (a : M →*' G), zpow (Int.ofNat (Nat.succ n)) a = a * zpow (Int.ofNat n) a := by
  simp only [Int.ofNat_eq_coe]
  simp only [mul_comm] — unexpected bound variable 2 
  sorry
```

**Comment by kbuzzard** [comment]
This issue should probably now be migrated to the Lean repo. What is the protocol here @semorrison ?

**Comment by semorrison** [comment]
As they are in different organisations we can't migrate: it just needs a new issue.
